US04550107
(S)-11-[[2-[(Diethylamino)methyl]-1-pyrrolidinyl]-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
The title compound is prepared analogously to Example 31 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and (S)-(+)-2-[(diethylamino)methyl]pyrrolidine to give colorless crystals, mp. 192°-193° C. (ethyl acetate/methanol 99:1 v/v); [α]D20 =29.4° (ethanol).

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | (S)-(+)-2-[(diethylamino)methyl]pyrrolidine | C(C)N(CC)C[C@H]1NCCC1 | C9H20N2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethanol | C(C)O | C2H6O
product | (S)-11-[[2-[(Diethylamino)methyl]-1-pyrrolidinyl]-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N(CC)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C23H29N5O2
